US07429665B2
4-(1-(pyridin-4-yl)-1H-imidazol-2-yl)phenol
According to the procedure for preparation of 4-(3-methyl-5-(pyridin-4-yl)-3H-1,2,3-triazol-4-yl)phenol, except that 4:1 dichloromethane:2-propanol was used in place of ethyl acetate to extract the product, 4-(2-(4-methoxyphenyl)-1H-imidazol-1-yl)pyridine (125 mg, 0.5 mmol) was treated with 1.25 mmol of boron tribromide to give 90 mg of a colorless solid. 1H NMR (CDCl3, 400 mHz) δ 8.52 (d, 2H, J=6 Hz), 7.14 (m, 2H), 7.11-7.08 (m, 4H), 6.79 (m, 2H), 2.94 (br, 1 H).

reactant | 4-(3-methyl-5-(pyridin-4-yl)-3H-1,2,3-triazol-4-yl)phenol | CN1N=NC(=C1C1=CC=C(C=C1)O)C1=CC=NC=C1 | C14H12N4O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | 4-(2-(4-methoxyphenyl)-1H-imidazol-1-yl)pyridine | 0.5 mmol, 125 mg | COC1=CC=C(C=C1)C=1N(C=CN1)C1=CC=NC=C1 | C15H13N3O
reactant | boron tribromide | 1.25 mmol | B(Br)(Br)Br | BBr3
solvent | 2-propanol | CC(C)O | C3H8O
product | 4-(1-(pyridin-4-yl)-1H-imidazol-2-yl)phenol | 90 mg | N1=CC=C(C=C1)N1C(=NC=C1)C1=CC=C(C=C1)O | C14H11N3O
